US06451794B1
(v) 3-Bromo-2-(3-fluoro-phenyl)-6-methoxy-pyrazolo[1,5-b]pyridazine
To a stirred solution of 2-(3-fluoro-phenyl)-6-methoxy-pyrazolo[1,5-b]pyridazine-3-carboxylic acid (2.0 g) in anhydrous DMF (20 ml) was added n-bromosuccinimide (1.78 g) and the resulting solution stirred at ambient temperature for 3 hours. The reaction mixture was diluted with ethyl acetate (800 ml) and washed sequentially with water (10×100 ml) and sat. brine (25 ml), dried (Na2SO4), and concentrated to give the title compound as a buff solid (2.19, 93%).

reactant | 2-(3-fluoro-phenyl)-6-methoxy-pyrazolo[1,5-b]pyridazine-3-carboxylic acid | 2.0 g | FC=1C=C(C=CC1)C1=NN2N=C(C=CC2=C1C(=O)O)OC | C14H10FN3O3
reactant | n-bromosuccinimide | 1.78 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-2-(3-fluoro-phenyl)-6-methoxy-pyrazolo[1,5-b]pyridazine | BrC=1C(=NN2N=C(C=CC21)OC)C2=CC(=CC=C2)F | C13H9BrFN3O
